US07491713B2
Step E: (2S,6S)-6-Amino-4-(cyclopropylmethyl)-2-phenyl-1,4-thiazepan-5-one
Trifluoroacetic acid (2.0 mL) was added to a solution of tert-butyl (2S,6S)-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate (90 mg, 0.239 mmol) in dichloromethane (5 mL). After 1 h, the mixture was concentrated and aqueous saturated sodium bicarbonate was added. The mixture was extracted with dichloromethane (2×), and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated to give the crude product (57 mg). 1H NMR (500 MHz, CDCl3) □ 7.38-7.30 (m, 5H), 4.36-4.28 (m, 2H), 4.06 (d, J=9.3 Hz, 1H), 3.74 (dd, J=14.4, 1.5 Hz, 1H), 3.67 (dd, J=13.9, 7.3 Hz, 1H), 3.08 (dd, J=13.9, 6.6 Hz, 1H), 3.00 (dd, J=14.4, 9.8 Hz, 1H), 2.66 (dd, J=14.4, 1.9 Hz, 1H), 1.02-0.99 (m, 1H), 0.57-0.53 (m, 2H), 0.27-0.23 (m, 2H).

reactant | Trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (2S,6S)-4-(cyclopropylmethyl)-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate | 0.239 mmol, 90 mg | C1(CC1)CN1C[C@@H](SC[C@H](C1=O)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C20H28N2O3S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2S,6S)-6-Amino-4-(cyclopropylmethyl)-2-phenyl-1,4-thiazepan-5-one | 57 mg | N[C@H]1C(N(C[C@@H](SC1)C1=CC=CC=C1)CC1CC1)=O | C15H20N2OS
